US06495561B2
To a solution of 4-(1H-imidazo[4,5-b]pyridin-2-ylmethyl)-cyclohexanecarboxylic acid (Compound AAB) (275 mg, 1.05 mmol), EDC (200 mg, 1.05 mmol) and HOAt (142 mg, 1.05 mmol) in anhydrous DMF (4 mL) was added 2-fluorobenzylamine (131 mg, 1.05 mmol) and the resulting reaction mixture was stirred for 1 h. The reaction mixture was partitioned between saturated aqueous NaHCO3 and EtOAc and the organic layer washed 2× with water. The EtOAc was dried with MgSO4 and concentrated to give a yellow solid. Preparative chromatography eluting with chloroform:methanol gave the cis 4-(1H-imidazo[4,5-b]pyridin-2-ylmethyl)-cyclohexanecarboxylic acid 2-fluoro-benzylamide as a white solid: mass spectrum m/z 367 [(M+H)+; calcd for C21H24N4OF: 366].

reactant | 4-(1H-imidazo[4,5-b]pyridin-2-ylmethyl)-cyclohexanecarboxylic acid | 1.05 mmol, 275 mg | N1C(=NC2=NC=CC=C21)CC2CCC(CC2)C(=O)O | C14H17N3O2
reactant | EDC | 1.05 mmol, 200 mg
reactant | HOAt | 1.05 mmol, 142 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | 2-fluorobenzylamine | 1.05 mmol, 131 mg | FC1=C(CN)C=CC=C1 | C7H8FN
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | cis 4-(1H-imidazo[4,5-b]pyridin-2-ylmethyl)-cyclohexanecarboxylic acid 2-fluoro-benzylamide | FC1=C(CNC(=O)[C@@H]2CC[C@@H](CC2)CC=2NC=3C(=NC=CC3)N2)C=CC=C1 | C21H23FN4O
